US05990133
1-(5-Phenyl pyrid-3-yl carbamoyl)-5-methoxy-6-trifluoromethyl indoline
A mixture of 1-(5-bromo-pyrid-3-yl carbamoyl)-5-methoxy-6-trifluoromethylindoline (D14, 208 mg, 0.5 mmol), phenyl boronic acid (300 mg, 2.4 mmol), sodium carbonate (0.32 g, 3 mmol) and tetrakis (triphenylphosphine) palladium (0) (30 mg) in dimethoxyethane-water (5 ml-1 ml) was heated to reflux under argon for 10 h. The cooled reaction mixture was partitioned between ethyl acetate-half saturated brine. The organic extract was dried and evaporated affording a brown solid (0.14 g). Chromatography on silica, eluting with a gradient of 0-5% methanol in ethyl acetate afforded the title compound as a white crystalline solid (100 mg, 48%), m.p. 162-164° C.

reactant | 1-(5-bromo-pyrid-3-yl carbamoyl)-5-methoxy-6-trifluoromethylindoline | 0.5 mmol, 208 mg | BrC=1C=C(C=NC1)NC(=O)N1CCC2=CC(=C(C=C12)C(F)(F)F)OC | C16H13BrF3N3O2
reactant | phenyl boronic acid | 2.4 mmol, 300 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 3 mmol, 0.32 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxyethane water | 5 ml-1 ml | C(OC)COC.O
catalyst | tetrakis (triphenylphosphine) palladium (0) | 30 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-(5-Phenyl pyrid-3-yl carbamoyl)-5-methoxy-6-trifluoromethyl indoline | 0.14 g | C1(=CC=CC=C1)C=1C=C(C=NC1)NC(=O)N1CCC2=CC(=C(C=C12)C(F)(F)F)OC | C22H18F3N3O2
